US04544664
4-(2,6-dimethylphenyl)-3-buten-2-one
13.4 g (0,1 mol) of 2,6-dimethylbenzaldehyde, 100 ml of acetone, 100 ml of water and 2 g of calcium hydroxide are mixed together and refluxed for about 20-25 h with agitation. The precipitate is filtered off from the cold reaction mixture. 1 l of ice water is added to the filtrate with agitation. The product is crystallized at a yield of about 90%. M.p. of the recrystallized product: 34°-35° C.

reactant | 2,6-dimethylbenzaldehyde | 0,1 mol, 13.4 g | CC1=C(C=O)C(=CC=C1)C | C9H10O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | calcium hydroxide | 2 g | [OH-].[Ca+2].[OH-]
solvent | water | 100 ml | O | H2O
product | 4-(2,6-dimethylphenyl)-3-buten-2-one | yield of about 90% | CC1=C(C(=CC=C1)C)C=CC(C)=O | C12H14O
